US08183271B2
Methyl 4-{(4E)-5-{2-[(4-tert-butylbenzyl)oxy]phenyl}-3-[4-(1H-tetrazol-5-yl)benzyl]pent-4-en-1-yl}benzoate
A solution of 180 mg (0.32 mmol) of methyl 4-[(4E)-5-{2-[(4-tert-butylbenzyl)oxy]phenyl}-3-(4-cyanobenzyl)pent-4-en-1-yl]benzoate in 10 ml of toluene is mixed with 557.3 mg (4.84 mmol) of trimethylsilyl azide and 120.51 mg (0.48 mmol) of di-n-butyltin oxide and heated at 80° C. for 12 hours. After cooling to room temperature, the mixture is washed with saturated sodium bicarbonate solution. The organic phase is separated off, washed with saturated sodium chloride solution and dried over sodium sulfate. After filtration the filtrate is concentrated to dryness. The resulting crude product is purified on a silica gel column (mobile phase: cyclohexan/ethyl acetate 2:1→1:2). 88 mg (0.14 mmol, 43% of theory) of a white foam are obtained.

reactant | methyl 4-[(4E)-5-{2-[(4-tert-butylbenzyl)oxy]phenyl}-3-(4-cyanobenzyl)pent-4-en-1-yl]benzoate | 0.32 mmol, 180 mg | C(C)(C)(C)C1=CC=C(COC2=C(C=CC=C2)/C=C/C(CCC2=CC=C(C(=O)OC)C=C2)CC2=CC=C(C=C2)C#N)C=C1 | C38H39NO3
reactant | trimethylsilyl azide | 4.84 mmol, 557.3 mg | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | di-n-butyltin oxide | 0.48 mmol, 120.51 mg | C(CCC)[Sn](CCCC)=O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | Methyl 4-{(4E)-5-{2-[(4-tert-butylbenzyl)oxy]phenyl}-3-[4-(1H-tetrazol-5-yl)benzyl]pent-4-en-1-yl}benzoate | C(C)(C)(C)C1=CC=C(COC2=C(C=CC=C2)/C=C/C(CCC2=CC=C(C(=O)OC)C=C2)CC2=CC=C(C=C2)C2=NN=NN2)C=C1 | C38H40N4O3
